US06486153B1
1-[4-Benzyloxycarbamoyl]phenoxymethyl-copoly(styrene- 1%-divinylbenzene)-2-phenyl-3-[2-(tetrahydro-2H-pyran-2-yloxy)ethyl]-1H-indole (7.87 g) was suspended in a mixture of DCE (125 ml) and ethanol (12.5 ml) containing PPTS (5.83 g) and warmed to 70° C. for 18 h. The resin was then filtered off and washed with DMF (4×25 ml), DCM (4×25 ml), MeOH (4×25 ml) and ether (25 ml). A portion of the recovered resin (100 mg) was then suspended in dry DMF (3.0 ml) containing 5% pyrrolidine and heated to 110° C. for 4 h. The resin was filtered off and the solvent removed from the filtrate under reduced pressure to afford 2-phenyl-1H-indol-3-ylethanol. 1H (360 MHz, CDCl3) δ3.21 (2H, t, J=7.0 Hz), 3.97 (2H, t, J=7.0 Hz), 7.13-7.22 (2H, m), 7.38 (2H, m), 7.45 (2H, m), 7.62 (3H, m) and 8.12 (1H, br s).

reactant | styrene | C=CC1=CC=CC=C1 | C8H8
reactant | divinylbenzene | C(=C)C1=C(C=CC=C1)C=C | C10H10
reactant | 2-phenyl-3-[2-(tetrahydro-2H-pyran-2-yloxy)ethyl]-1H-indole | 7.87 g | C1(=CC=CC=C1)C=1NC2=CC=CC=C2C1CCOC1OCCCC1 | C21H23NO2
reactant | PPTS | 5.83 g | CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=[NH+]C=C1
solvent | DCE | 125 ml | ClCCCl | C2H4Cl2
solvent | ethanol | 12.5 ml | C(C)O | C2H6O
product | 2-phenyl-1H-indol-3-ylethanol | C1(=CC=CC=C1)C=1NC2=CC=CC=C2C1C(C)O | C16H15NO
